US09145392B2
4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (“378”)
The title compound was prepared in an analogous manner as 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile using methanesulfonic acid 2-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-methyl-phenyl)-imidazol-1-yl]-ethyl ester instead of methanesulfonic acid 2-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-imidazol-1-yl]-ethyl ester. LC-MS: (M+1=475, obsd.=475).

reactant | 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCNCC1CC1 | C26H28F4N8
reactant | methanesulfonic acid 2-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-methyl-phenyl)-imidazol-1-yl]-ethyl ester | NC1=C(C(=NC=N1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCOS(=O)(=O)C)C#N | C23H26FN7O3S
product | 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCNCC1CC1 | C26H31FN8
